US06608101B1
3′,4′,5′-Trimethoxyacetophenone (1.62 g, 7.7 mmol) was dissolved in ethanol (50 mL). Sodium hydroxide solution (50%, 4 mL) was added and the mixture was stirred at room temperature for 30 minutes. 5-(Benzo[b]thien-2-yl)-2,4-dimethoxybenzaldehyde (2.2 g, 7.7 mmol) from Ex-6A was added, and the mixture was stirred at room temperature overnight. The resulting yellow precipitate was filtered out, rinsed with water and dried over an oil pump to give 3.4 g (92%) of the desired 3-[5-(benzo[b]thien-2-yl)-2,4-di-methoxyphenyl]-1-(3,4,5-trimethoxyphenyl)-2-propen-1-one product as a solid, m.p. 194-196° C. 1H-NMR (300 MHz, CDCl3): 8.09 (d, 1H), 7.93 (s, 1H), 7.83 (d, 1H), 7.78 (d, 1H), 7.67 (s, 1H), 7.52 (d, 1H), 7.25-7.38 (m, 4H), 6.57 (s, 1H), 3.9-4.1 (m, 15H). Anal. Calculated for C28H26O6S: C, 68.55, H, 5.34, S, 6.53; found C: 68.48, H: 5.43, S: 6.52.

reactant | 3′,4′,5′-Trimethoxyacetophenone | 7.7 mmol, 1.62 g | COC=1C=C(C=C(C1OC)OC)C(C)=O | C11H14O4
reactant | Sodium hydroxide | 4 mL | [OH-].[Na+]
reactant | 5-(Benzo[b]thien-2-yl)-2,4-dimethoxybenzaldehyde | 7.7 mmol, 2.2 g | S1C2=C(C=C1C=1C(=CC(=C(C=O)C1)OC)OC)C=CC=C2 | C17H14O3S
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-[5-(benzo[b]thien-2-yl)-2,4-di-methoxyphenyl]-1-(3,4,5-trimethoxyphenyl)-2-propen-1-one | 3.4 g, 92% | S1C2=C(C=C1C=1C(=CC(=C(C1)C=CC(=O)C1=CC(=C(C(=C1)OC)OC)OC)OC)OC)C=CC=C2 | C28H26O6S
